US06342598B1
A) 2-Bromo-N-octadecylacetamide (C.A.S. registry number 15491-43-7)
A solution of bromoacetyl bromide (44.4 g; 0.22 mol) in CH2Cl2 (50 mL) was added dropwise in 2.5 h at 20° C. to a mixture of octadecylamine (59.3 g; 0.22 mol) and K2CO3 (30.4 g; 0.22 mol) in CH2Cl2 (600 mL) and H2O (600 mL). After 16 h at room temperature the organic layer was separated, washed with H2O, dried over Na2SO4 and evaporated. The crude product was purified by flash chromatography (CH2Cl2/MeOH=100/1 (v/v)) to give the desired product (60 g; 0.154 mol). Yield 70%. GC: 96% (area %), K. F.: <0.1%; 1H-NMR, 13C-NMR and MS spectra were consistent with the postulated structure.

reactant | bromoacetyl bromide | 0.22 mol, 44.4 g | BrCC(=O)Br | C2H2Br2O
reactant | octadecylamine | 0.22 mol, 59.3 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | K2CO3 | 0.22 mol, 30.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 600 mL | O | H2O
product | 2-Bromo-N-octadecylacetamide | 0.154 mol, 60 g, Yield 70% | BrCC(=O)NCCCCCCCCCCCCCCCCCC | C20H40BrNO
